US09422232B2
A solution of N-(4-oxobutyl)trifluoroacetamide (1.0 g; 5.5 mmol) and a catalytic amount of anhydrous ferric chloride (44 mg; 0.27 mmol) in anhydrous MeCN (6 mL) was cooled to −40° C. A solution of methyl 4-[(trimethylsilyloxy)methyl]benzoate (1.56 g; 6.6 mmol) and azidotrimethylsilane (0.94 g; 8.2 mmol) in MeCN (5 mL) was added dropwise to the cooled solution. The reaction mixture was stirred at −40° C. for 60 min and quenched with buffered phosphate saline (pH 7.2). The aqueous solution was extracted with Et2O. The organic layer was washed with brine, dried over MgSO4, filtrated and evaporated. The residue was purified by column chromatography (Hex:DCM:EtOAc 7:2:1) to provide methyl 4-[(1-azido-4-trifluoroacetamidobutoxy)methyl]benzoate in a yield of 0.95 g (46%).

reactant | N-(4-oxobutyl)trifluoroacetamide | 5.5 mmol, 1.0 g | O=CCCCNC(C(F)(F)F)=O | C6H8F3NO2
reactant | methyl 4-[(trimethylsilyloxy)methyl]benzoate | 6.6 mmol, 1.56 g | C[Si](OCC1=CC=C(C(=O)OC)C=C1)(C)C | C12H18O3Si
reactant | azidotrimethylsilane | 8.2 mmol, 0.94 g | N(=[N+]=[N-])[Si](C)(C)C | C3H9N3Si
solvent | MeCN | 6 mL | CC#N | C2H3N
solvent | MeCN | 5 mL | CC#N | C2H3N
product | methyl 4-[(1-azido-4-trifluoroacetamidobutoxy)methyl]benzoate | N(=[N+]=[N-])C(CCCNC(C(F)(F)F)=O)OCC1=CC=C(C(=O)OC)C=C1 | C15H17F3N4O4
